US07427613B2
(2-Chloro-6-fluorobenzyl)cyclopropylamine
Synthesized according to typical procedure J from 2-chloro-6-fluorobenzaldehyde and cyclopropylamine.

reactant | 2-chloro-6-fluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2-Chloro-6-fluorobenzyl)cyclopropylamine | ClC1=C(CNC2CC2)C(=CC=C1)F | C10H11ClFN
